US07504411B2
To a solution of (R)-1-benzyl-4-(tert-butoxycarbonyl)-3-(4-chlorophenyl)piperazine (11.6 g, 30.1 mmol) in 1,2-dichloroethane (80 ml) was added 1-chloroethyl chloroformate (4.91 ml, 45.1 mmol) at room temperature. Upon disappearance of the starting material, the reaction mixture was concentrated under reduced pressure. The residue was then dissolved in methanol (100 ml) and refluxed for 30 min. The resulting white precipitate was filtered and washed with methanol to afford (R)-2-(4-chlorophenyl)piperazine dihydrochloride, which was liberated with aqueous sodium hydroxide solution, and extracted with dichloromethane to afford (R)-2-(4-chlorophenyl)piperazine (3.04 g, 51.4%) as white solid.

reactant | (R)-1-benzyl-4-(tert-butoxycarbonyl)-3-(4-chlorophenyl)piperazine | 30.1 mmol, 11.6 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)Cl | C22H27ClN2O2
reactant | 1-chloroethyl chloroformate | 45.1 mmol, 4.91 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | (R)-2-(4-chlorophenyl)piperazine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)[C@H]1NCCNC1 | InChI=1S/C10H13ClN2.2ClH/c11-9-3-1-8(2-4-9)10-7-12-5-6-13-10;;/h1-4,10,12-13H,5-7H2;2*1H/t10-;;/m0../s1
